US07320993B1
N-(5-hydroxy-5,5-diphenyl-pentyl)-3-pyridin-3-yl-acrylamide (Substance 27)
Batch size: 1.7 g (11.3 mmol) 3-(3-pyridyl)-acrylic acid, 1.7 g (10 mmol) CDI and 2.4 g (9.4 mmol) 5-hydroxy-5,5-diphenyl-pentylamine in 40 ml abs. THF.

reactant | 3-(3-pyridyl)-acrylic acid | 11.3 mmol, 1.7 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | CDI | 10 mmol, 1.7 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-hydroxy-5,5-diphenyl-pentylamine | 9.4 mmol, 2.4 g | OC(CCCCN)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H21NO
solvent | THF | C1CCOC1 | C4H8O
product | N-(5-hydroxy-5,5-diphenyl-pentyl)-3-pyridin-3-yl-acrylamide | OC(CCCCNC(C=CC=1C=NC=CC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H26N2O2
